US07781483B2
To a mixed solution of 6-amino-2,2-dimethyl-7-nitro-1-benzopyran (19.5 g, 88.7 mmol) in methanol-concentrated hydrochloric acid (1:1 v/v, 280 mL) and hypophosphorous acid aqueous solution (100 mL), an aqueous solution of sodium nitrite (12.2 g, 178 mmol) was added dropwise over 30 minutes at −3° C., and the resulting solution was stirred at room temperature until bubbling ceased. The reaction solution was diluted with ethyl acetate, washed with water and saturated sodium chloride solution. The organic phase was dried over magnesium sulfate and then concentrated under a reduced pressure. The resulting solid was recrystallized in methanol to obtain 2,2-dimethyl-7-nitro-1-benzopyran (yield: 61%).

reactant | 6-amino-2,2-dimethyl-7-nitro-1-benzopyran | 88.7 mmol, 19.5 g | NC=1C(=CC2=C(C=CC(O2)(C)C)C1)[N+](=O)[O-] | C11H12N2O3
reactant | sodium nitrite | 178 mmol, 12.2 g | N(=O)[O-].[Na+]
solvent | methanol | 280 mL | CO | CH4O
solvent | hypophosphorous acid | 100 mL | [PH2](=O)O | H3O2P
product | 2,2-dimethyl-7-nitro-1-benzopyran | yield: 61% | CC1(OC2=C(C=C1)C=CC(=C2)[N+](=O)[O-])C | C11H11NO3
